US04886814
(b) N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine (Diastereomer A)
1.2 g (0.0026 mol) of N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one (diastereomer A) are dissolved in 10 ml of absolute tetrahydrofuran at 22° C. Three portions of 2.8 ml (0.0028 mol) of a 1 molar solution of diborane in tetrahydrofuran are added dropwise to this solution at intervals of 30 minutes in each instance. The mixture is evaporated to dryness after 1.5 hours. The resulting residue is taken up in 80 ml of methanol and the solution is left to stand at room temperature for 16 hours. It is again evaporated to dryness and the resulting residue is taken up in methylene chloride, and the organic phase is extracted with a cold aqueous ammonia solution. The methylene chloride phase is extracted 2 x with water, and the organic phase is dried over sodium sulphate and concentrated. The resulting residue is purified on a silica gel column using toluene/ethyl acetate=8:2 as eluant. This results in a colourless oil.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one | 0.0026 mol, 1.2 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1=O)C=1N=C(SC1)C(F)(F)F | C20H21F3N2O5S
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C20H23F3N2O4S
